US04479963
The mixture of 20 g of 5-methoxyindole-2-carboxylic acid (J. Chem. Soc., 1970, 865) and 200 ml of acetic anhydride is refluxed for 2 hours and allowed to cool to room temperature. It is filtered, the filtrate evaporated and the residue is stirred in 300 ml of water. Excess sodium bicarbonate is added, the mixture stirred for 3 hours and then washed with 200 ml of diethyl ether. The aqueous layer is acidified to pH=1 with concentrated hydrochloric acid and filtration yields the 1-acetyl-5-methoxyindole-2-carboxylic acid melting at 173°-175°.

reactant | 5-methoxyindole-2-carboxylic acid | 20 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-5-methoxyindole-2-carboxylic acid | C(C)(=O)N1C(=CC2=CC(=CC=C12)OC)C(=O)O | C12H11NO4
